US07138399B2
A3. Methyl 3-(4-methoxypyridin-2-yl)acrylate
A mixture of 45 g of 4-methoxypyridine-2-carbaldehyde (Ashimori et al., Chem. Pharm. Bull. 38, 2446–2458 (1990)), 75.80 g of pyridine hydrochloride, 102.45 g of monomethyl malonate potassium salt and 4.1 ml of piperidine in 700 ml of pyridine are slowly heated, with stirring, to 120° C. When the evolution of gas starts, the heating source is temporarily removed to stop the reaction from becoming too violent. Once the reaction has subsided, the mixture is stirred at 120° C. for a further 2.5 h, and the pyridine is then distilled off under reduced pressure. The residue is partitioned between ethyl acetate/water and the organic phase is washed with water and dried. The residue obtained after concentration is chromatographed on a silica gel column using ethyl acetate/petroleum ether 2:1. This initially gives 43.2 g of the title compound as a yellow oil which crystallizes on standing and then shows a m.p. of 80–82° C. The mass spectrum shows the molecular peak MH+ at 194 Da.

reactant | 4-methoxypyridine-2-carbaldehyde | 45 g | COC1=CC(=NC=C1)C=O | C7H7NO2
reactant | pyridine hydrochloride | 75.80 g | Cl.N1=CC=CC=C1
reactant | monomethyl malonate potassium salt | 102.45 g | [K+].C(CC(=O)[O-])(=O)OC
reactant | piperidine | 4.1 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 700 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 3-(4-methoxypyridin-2-yl)acrylate | COC1=CC(=NC=C1)C=CC(=O)OC | C10H11NO3
